US04395406
1-Propargyl-5-chloropyrimid-2-one
A mixture of the potassium salt of 5-chloropyrimid-2-one (0.009 mol) and propargyl bromide (0.013 mol) in dimethylformamide (40 ml) was stirred at room temperature for 18 h. The solvent was then removed at reduced pressure (1 mm Hg) and the residue was extracted with chloroform (150 ml). The chloroform solution was passed through a column of Al2O3 (Woelm; 30 g, activity III). Evaporation of the chloroform eluates left a solid which was triturated with a little ether before recrystallization from EtOAc; yield 56%, m.p. 130° C. (Found: C, 50.11; H, 2.95. Calc. for C7H5ClN2O: C, 49.87; H, 2.99).

reactant | potassium | [K] | K
reactant | 5-chloropyrimid-2-one | 0.009 mol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | propargyl bromide | 0.013 mol | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Propargyl-5-chloropyrimid-2-one | yield 56% | C(C#C)N1C(N=CC(=C1)Cl)=O | C7H5ClN2O
